US08252810B2
(1) 3-(3,3-Dimethoxypropyl)-2-methoxy-5,6,7,8-tetrahydro-3H-quinazolin-4-one
After dissolving 2-methoxy-5,6,7,8-tetrahydro-3H-quinazolin-4-one (CAS 94815-67-5) (2.0 g) and 3-bromopropionaldehyde dimethylacetal (2.44 g) in N,N-dimethylformamide (30 ml), sodium hydride (60% in oil) (533 mg) was added, and the mixture was stirred at room temperature for 30 minutes and at 100° C. for 5 hours. Water was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was washed with water and brine in that order and then dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (640 mg).

reactant | 2-methoxy-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 2.0 g | COC1=NC=2CCCCC2C(N1)=O | C9H12N2O2
reactant | 3-bromopropionaldehyde dimethylacetal | 2.44 g | COC(CCBr)OC | C5H11BrO2
reactant | sodium hydride | 533 mg | [H-].[Na+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3,3-Dimethoxypropyl)-2-methoxy-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 640 mg | COC(CCN1C(=NC=2CCCCC2C1=O)OC)OC | C14H22N2O4
